* Z:\celera\projects\Simplis\playrelease\Release\play301a\Regression\sim_clocksyncRegression301a.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map sync375_80 28
.node_map sync375_81 29
.node_map sync375_20 26
.node_map sync232_50 24
.node_map sync233_50 25
.node_map sync375_19 27
.node_map ck 31
.node_map en 30
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.tran 100u 0

.globalvar tdext_khz=200
.globalvar VIN=5
.globalvar REF=0.9

.PRINT V(19)
.GRAPH :19 curveLabel= U2-out233_50 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe1  
.PRINT V(#sync233_50)
.GRAPH :#sync233_50 curveLabel= sync233_50 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe10  
.PRINT V(#sync232_50)
.GRAPH :#sync232_50 curveLabel= sync232_50 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe11  
.PRINT V(#sync375_80)
.GRAPH :#sync375_80 curveLabel= sync375_80 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe16  
.PRINT V(#en)
.GRAPH :#en curveLabel= en nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe19  
.PRINT V(18)
.GRAPH :18 curveLabel= U2-out232_50 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe2  
.PRINT V(#ck)
.GRAPH :#ck curveLabel= ck nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe20  
.PRINT V(20)
.GRAPH :20 curveLabel= U2-out375_20 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe3  
.PRINT V(#sync375_81)
.GRAPH :#sync375_81 curveLabel= sync375_81 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe4  
.PRINT V(21)
.GRAPH :21 curveLabel= U2-out375_19 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe5  
.PRINT V(#sync375_20)
.GRAPH :#sync375_20 curveLabel= sync375_20 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe6  
.PRINT V(22)
.GRAPH :22 curveLabel= U2-out375_80 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe7  
.PRINT V(23)
.GRAPH :23 curveLabel= U2-out375_81 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe8  
.PRINT V(#sync375_19)
.GRAPH :#sync375_19 curveLabel= sync375_19 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe9  
X$U2 18 19 24 25 20 26 27 28 29 21 30 31 22 23 clocksync301
X$U3 0 celera vars: simulation_module='name' status='dev' simulation='typical'
** From Z:\celera\projects\Simplis\playrelease\Release\play301a\Regression\clocksync301.sxcmp
.subckt clocksync301 47 54 45 50 57 52 46 53 56 48 49 51 55 58
*#hierarchy
.node_map out375_19 48
.node_map sync375_80 53
.node_map sync375_81 56
.node_map sync375_20 52
.node_map out375_80 55
.node_map out375_81 58
.node_map out375_20 57
.node_map sync232_50 45
.node_map out232_50 47
.node_map sync233_50 50
.node_map out233_50 54
.node_map sync375_19 46
.node_map ck 51
.node_map en 49
X$clocksync1 37 50 51 54 39 49 clocksync  vars: clocksync_statusoutput='no' clocksync_dft='no' clocksync_accuracy='no' clocksync_trim_name='text' clocksync_trim_description='text' clocksync_frequency=375 clocksync_dutycyclemin=20 clocksync_dutycyclemax=80 clocksync_vmax=6
X$clocksync2 41 52 51 57 43 49 clocksync  vars: clocksync_statusoutput='no' clocksync_dft='no' clocksync_accuracy='no' clocksync_trim_name='text' clocksync_trim_description='text' clocksync_frequency=375 clocksync_dutycyclemin=20 clocksync_dutycyclemax=80 clocksync_vmax=6
X$clocksync3 33 45 51 47 35 49 clocksync  vars: clocksync_statusoutput='no' clocksync_dft='no' clocksync_accuracy='no' clocksync_trim_name='text' clocksync_trim_description='text' clocksync_frequency=375 clocksync_dutycyclemin=20 clocksync_dutycyclemax=80 clocksync_vmax=6
X$clocksync4 34 46 51 48 36 49 clocksync  vars: clocksync_statusoutput='no' clocksync_dft='no' clocksync_accuracy='no' clocksync_trim_name='text' clocksync_trim_description='text' clocksync_frequency=375 clocksync_dutycyclemin=20 clocksync_dutycyclemax=80 clocksync_vmax=6
X$clocksync5 38 53 51 55 40 49 clocksync  vars: clocksync_statusoutput='no' clocksync_dft='no' clocksync_accuracy='no' clocksync_trim_name='text' clocksync_trim_description='text' clocksync_frequency=375 clocksync_dutycyclemin=20 clocksync_dutycyclemax=80 clocksync_vmax=6
X$clocksync6 42 56 51 58 44 49 clocksync  vars: clocksync_statusoutput='no' clocksync_dft='no' clocksync_accuracy='no' clocksync_trim_name='text' clocksync_trim_description='text' clocksync_frequency=375 clocksync_dutycyclemin=20 clocksync_dutycyclemax=80 clocksync_vmax=6
.ends clocksync301

.end
